US03984546
1,2,3,4-Tetrahydro-8-methoxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
A mixture of 10 g (0.043 m) of 1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one, 11.2 g (0.06 m) of N-(2-chloroethyl)morpholine HCl and 14.2 g of triethylamine (0.14 m) in 170 ml of abs. EtOH was refluxed with stirring and protection from moisture for 4 hours. The reaction was filtered hot, cooled slightly and treated with dry HCl. The resulting precipitate was filtered and washed with EtOH, then ether; yield 14.6 g (81%). Crystallization from methanol afforded analytical material, mp 237°-40°C.

reactant | 1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 10 g | COC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO3
reactant | N-(2-chloroethyl)morpholine HCl | 11.2 g | Cl.ClCCN1CCOCC1
reactant | triethylamine | 14.2 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | CCO | C2H6O
product | 1,2,3,4-Tetrahydro-8-methoxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=CC2=C(C=C1)C1=C(CN(CC1)CCN1CCOCC1)C(O2)=O | C19H24N2O4
